US05098462
A mixture of sodium acetate (14.76 g, 180.0 mmol) and acetic anhydride (150 ml) is heated, under N2, to 120° for 10 min., and is then chilled to 10°. 2-Ethyl-2-propenal dimethylhydrazone (11.36 g, 90.0 mmol) is added, followed by addition of bromomaleic anhydride (16.41 g, 92.7 mmol) and the reaction mixture is stirred at 10° for ca. 1 hour. The mixture is then diluted with methylene chloride and filtered, and the solid is rinsed with methylene chloride until colorless. The filtrate is concentrated to remove the solvent and to give 1,4-dihydro-1-dimethylamino-5-ethyl-2,3-pyridinedicarboxylic anhydride.

reactant | sodium acetate | 180.0 mmol, 14.76 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-Ethyl-2-propenal dimethylhydrazone | 90.0 mmol, 11.36 g | CN(N=CC(=C)CC)C | C7H14N2
reactant | bromomaleic anhydride | 92.7 mmol, 16.41 g | Br/C=1/C(=O)OC(\C1)=O | C4HBrO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,4-dihydro-1-dimethylamino-5-ethyl-2,3-pyridinedicarboxylic anhydride | CN(N1C2=C(CC(=C1)CC)C(=O)OC2=O)C | C11H14N2O3
